US09290468B2
Step 12: 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)-N-(2-(vinyloxy)ethoxy)benzo[d]thiazole-6-carboxamide
To a solution of 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d]thiazole-6-carboxylic acid (482 mg, 1.20 mmol) in CH2Cl2 (10 mL) was added HOBt (254 mg, 1.63 mmol) and EDCI (314 mg, 1.63 mmol). The mixture was stirred for 1 h and O-(2-(vinyloxy)ethyl)hydroxyl-amine (172 mg, 1.62 mmol) was added. After stirring for 4 h at ambient temperature, the reaction was treated with saturated NH4Cl (aq.). The resultant mixture was extracted with CH2Cl2 (30 mL×3). The combined organic extracts were washed with water (30 mL) and brine (30 mL), dried over Na2SO4 filtered, and concentrated in vacuo. The crude product (503 mg) was used directly in the next step without further purification.

reactant | 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d]thiazole-6-carboxylic acid | 1.20 mmol, 482 mg | FC1=C(C(=CC2=C1N=CS2)C(=O)O)NC2=C(C=C(C=C2)Br)Cl | C14H7BrClFN2O2S
reactant | HOBt | 1.63 mmol, 254 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.63 mmol, 314 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | O-(2-(vinyloxy)ethyl)hydroxyl-amine | 1.62 mmol, 172 mg | C(=C)OCCON | C4H9NO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)-N-(2-(vinyloxy)ethoxy)benzo[d]thiazole-6-carboxamide | FC1=C(C(=CC2=C1N=CS2)C(=O)NOCCOC=C)NC2=C(C=C(C=C2)Br)Cl | C18H14BrClFN3O3S
